US06423688B1
Synthesis of N-(Toluene-4-sulfonyl)-L-prolyl-Nε-(tert-butoxycarbonyl)-L-lysine
N-(Toluene-4-sulfonyl)-L-proline hydrate was coupled to Nε-Boc-lysine methyl ester hydrochloride using the procedure described in Method 3. The title compound was prepared via hydrolysis of the methyl ester using LiOH in THF/water.

reactant | N-(Toluene-4-sulfonyl)-L-proline hydrate | O.C1(=CC=C(C=C1)S(=O)(=O)N1[C@H](C(=O)O)CCC1)C
reactant | Nε-Boc-lysine methyl ester hydrochloride | Cl.COC([C@@H](N)CCCCNC(=O)OC(C)(C)C)=O
reactant | LiOH | [Li+].[OH-]
solvent | THF water | C1CCOC1.O
product | N-(Toluene-4-sulfonyl)-L-prolyl-Nε-(tert-butoxycarbonyl)-L-lysine | C1(=CC=C(C=C1)S(=O)(=O)N1[C@H](C(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)O)CCC1)C | C23H35N3O7S
